US09255093B2
The mixture of ethyl 2-(5-methyl-2-(2,2,2-trifluoroacetyl)phenoxy)acetate (7.3 g, 25.2 mmol) and pre-oven dried K2CO3 (5.21 g, 37.7 mmol) in 25 mL of CH3CN in sealed tube was heated and stirred at 90° C. for two days. After cooling to room temperature, the reaction was filtered, and the solid was washed with anhydrous CH3CN. The combined filtrate was concentrated to dryness under reduced pressure. The resulting residue was purified by silica gel flash chromatography, 100% Heptane-2% Ethyl Acetate/98% Heptane, to give ethyl 6-methyl-3-(trifluoromethyl)benzofuran-2-carboxylate (2.35 g). LCMS retention time=1.52 minutes (LC method 1); MS (m+1)=273.3. 1H NMR (400 MHz, CHLOROFORM-d) δ 1.45 (t, J=7.1 Hz, 3H), 2.53 (s, 3H), 4.50 (q, J=7.2 Hz, 2H), 7.24 (dd, J=8.3, 0.9 Hz, 1H), 7.43 (d, J=0.6 Hz, 1H), 7.69-7.77 (m, 1H).

reactant | ethyl 2-(5-methyl-2-(2,2,2-trifluoroacetyl)phenoxy)acetate | 25.2 mmol, 7.3 g | CC=1C=CC(=C(OCC(=O)OCC)C1)C(C(F)(F)F)=O | C13H13F3O4
reactant | K2CO3 | 37.7 mmol, 5.21 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | ethyl 6-methyl-3-(trifluoromethyl)benzofuran-2-carboxylate | 2.35 g | CC1=CC2=C(C(=C(O2)C(=O)OCC)C(F)(F)F)C=C1 | C13H11F3O3
